US03987158
A solution of 3-methylphenyl(thioacetamide) (4.9 g.) and methyl iodide (12.6 g.) in acetone (15 ml.) was heated to reflux for 20 minutes. The mixture was cooled and filtered to give pure methyl 3-methylphenyl(thioacetimidate) hydriodide, m.p. 142°-144°.

reactant | 3-methylphenyl(thioacetamide) | 4.9 g | CC=1C=C(C=CC1)CC(=S)N | C9H11NS
reactant | methyl iodide | 12.6 g | CI | CH3I
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | methyl 3-methylphenyl(thioacetimidate) hydriodide | I.CC=1C=C(C=CC1)CC(SC)=N | InChI=1S/C10H13NS.HI/c1-8-4-3-5-9(6-8)7-10(11)12-2;/h3-6,11H,7H2,1-2H3;1H
